### PR TITLE
[Merged by Bors] -   feat(Bicategory/Modification/Pseudo): define modifications between strong natural transformations of pseudofunctors

### PR DESCRIPTION
**Pull request by callesonne**
This PR adds modifications between strong natural transformations of pseudofunctors. At the same time, it improves the existing code on modifications between oplax natural tranformations of oplax functors (by removing some simp lemmas).

This is a migration of  #18254 to a fork.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean [hunk 1]
```diff
@@ -83,51 +96,164 @@ theorem whiskerRight_naturality (f : a ⟶ b) (g : G.obj b ⟶ a') :
...
 by giving object level isomorphisms, and checking naturality only in the forward direction.
 -/
 @[simps]
-def ModificationIso.ofComponents (app : ∀ a, η.app a ≅ θ.app a)
+def isoMk (app : ∀ a, η.app a ≅ θ.app a)
     (naturality :
       ∀ {a b} (f : a ⟶ b),
-        F.map f ◁ (app b).hom ≫ θ.naturality f = η.naturality f ≫ (app a).hom ▷ G.map f) :
+        F.map f ◁ (app b).hom ≫ θ.naturality f =
+          η.naturality f ≫ (app a).hom ▷ G.map f := by aesop_cat) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean]: Could you use `cat_disch` as the default tactic? (Here, and probably in a few other places in the modified files.)

File: Mathlib/CategoryTheory/Bicategory/NaturalTransformation/Pseudo.lean [hunk 2]
```diff
@@ -78,7 +79,7 @@ namespace StrongTrans
 
 variable {F G : Pseudofunctor B C}
 
-/-- The underlying oplax transformation of a strong transformation. -/
+/-- The strong transformation between underlying pseudofunctors. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Bicategory/NaturalTransformation/Pseudo.lean]: You mean something like "the strong transformation of oplax functors induced by a strong transformation of pseudofunctors"?

Comment (callesonne) [reply Mathlib/CategoryTheory/Bicategory/NaturalTransformation/Pseudo.lean]: Yes, thanks!

File: Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean [hunk 3]
```diff
@@ -1,46 +1,69 @@
...
+* `StrongTrans.Modification η θ`: modifications between strong transformations `η` and `θ` between
+  `F` and `G`.
+* `StrongTrans.homCategory F G`: the category structure on the strong transformations
+  between `F` and `G`, where composition is given by vertical composition. Note that this a scoped
+  instance in the `Oplax.OplaxTrans` namespace, so you need to run `open scoped Oplax.OplaxTrans`
+  to access it.
+
+## Note
+
+The category structure in
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean]: There is a missing sentence here I think.

File: Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean [hunk 4]
```diff
@@ -119,15 +138,133 @@ lemma Modification.comp_app' {X : B} {F G : B ⥤ᵒᵖᴸ C} {α β γ : F ⟶
 by giving object level isomorphisms, and checking naturality only in the forward direction.
 -/
 @[simps]
-def ModificationIso.ofComponents (app : ∀ a, η.app a ≅ θ.app a)
+def isoMk (app : ∀ a, η.app a ≅ θ.app a)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean:139]: Can you please add a `@[deprecated] alias` for the old name?

File: Mathlib/CategoryTheory/Bicategory/Modification/Pseudo.lean [hunk 5]
```diff
@@ -0,0 +1,153 @@
...
+-/
+@[ext]
+structure Modification where
+  /-- The underlying family of 2-morphism. -/
+  app (a : B) : η.app a ⟶ θ.app a
+  /-- The naturality condition. -/
+  naturality :
+    ∀ {a b : B} (f : a ⟶ b),
+      F.map f ◁ app b ≫ (θ.naturality f).hom =
+        (η.naturality f).hom ≫ app a ▷ G.map f := by cat_disch
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Modification/Pseudo.lean]:
```suggestion
  naturality {a b : B} (f : a ⟶ b) :
      F.map f ◁ app b ≫ (θ.naturality f).hom =
        (η.naturality f).hom ≫ app a ▷ G.map f := by cat_disch
```

File: Mathlib/CategoryTheory/Bicategory/Modification/Pseudo.lean [hunk 6]
```diff
@@ -0,0 +1,153 @@
...
+
+instance : Inhabited (Modification η η) :=
+  ⟨Modification.id η⟩
+
+/-- Vertical composition of modifications. -/
+@[simps]
+def vcomp {ι : F ⟶ G} (Γ : Modification η θ) (Δ : Modification θ ι) : Modification η ι where
+  app a := Γ.app a ≫ Δ.app a
+
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Modification/Pseudo.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean (hunk 3 above)
Comment (callesonne) [reply Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean]: Thanks! Removed as I don't remember what it was for. Also removed the TODO as you have your PR defining exactly this open by now.

File: Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean (hunk 4 above)
Comment (callesonne) [reply Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean:139]: Done!

File: Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean [hunk 7]
```diff
@@ -256,6 +258,9 @@ def isoMk (app : ∀ a, η.app a ≅ θ.app a)
       naturality {a b} f := by
         simpa using _ ◁ (app b).inv ≫= (naturality f).symm =≫ (app a).inv ▷ _ }
 
+@[deprecated (since := "2025-11-11")] alias ModificationIso.ofComponents := isoMk
+
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Bicategory/Modification/Pseudo.lean [hunk 8]
```diff
@@ -0,0 +1,155 @@
...
+end
+
+variable (η) in
+/-- The identity modification. -/
+@[simps]
+def id : Modification η η where app a := 𝟙 (η.app a)
+
+instance : Inhabited (Modification η η) :=
+  ⟨Modification.id η⟩
```
Comment (callesonne) [inline Mathlib/CategoryTheory/Bicategory/Modification/Pseudo.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean [hunk 9]
```diff
@@ -8,42 +8,56 @@ module
...
+* `OplaxTrans.Modification η θ`: modifications between oplax transformations `η` and `θ` between
+  `F` and `G`.
+* `OplaxTrans.homCategory F G`: the category structure on the oplax transformations
+  between `F` and `G`, where composition is given by vertical composition.
+
+* `StrongTrans.Modification η θ`: modifications between strong transformations `η` and `θ` between
+  `F` and `G`.
+* `StrongTrans.homCategory F G`: the category structure on the strong transformations
+  between `F` and `G`, where composition is given by vertical composition. Note that this a scoped
+  instance in the `Oplax.OplaxTrans` namespace, so you need to run `open scoped Oplax.OplaxTrans`
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean]:
```suggestion
  instance in the `Oplax.StrongTrans` namespace, so you need to run `open scoped Oplax.StrongTrans`
```

And I guess the same paragraph should be added in the doc for `OplaxTrans.homCategory`.

File: Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean [hunk 10]
```diff
@@ -122,15 +132,137 @@ lemma Modification.comp_app' {X : B} {F G : B ⥤ᵒᵖᴸ C} {α β γ : F ⟶
...
+        F.map f ◁ (app b).hom ≫ (θ.naturality f).hom =
+          (η.naturality f).hom ≫ (app a).hom ▷ G.map f := by cat_disch) : η ≅ θ where
+  hom := { app a := (app a).hom }
+  inv :=
+    { app a := (app a).inv
+      naturality {a b} f := by
+        simpa using _ ◁ (app b).inv ≫= (naturality f).symm =≫ (app a).inv ▷ _ }
+
+@[deprecated (since := "2025-11-11")] alias ModificationIso.ofComponents := isoMk
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean]:
```suggestion
```
Since `Oplax.StrongTrans.ModificationIso.ofComponents` was not a thing, no need to deprecate it I guess.

File: Mathlib/CategoryTheory/Bicategory/Modification/Pseudo.lean [hunk 11]
```diff
@@ -0,0 +1,152 @@
...
+        (η.naturality f).hom ≫ (app a).hom ▷ G.map f := by cat_disch) :
+    η ≅ θ where
+  hom := { app a := (app a).hom }
+  inv :=
+    { app a := (app a).inv
+      naturality {a b} f := by
+        simpa using _ ◁ (app b).inv ≫= (naturality f).symm =≫ (app a).inv ▷ _ }
+
+@[deprecated (since := "2025-11-11")] alias ModificationIso.ofComponents := isoMk
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Bicategory/Modification/Pseudo.lean]:
```suggestion
```

**Review by robin-carlier — COMMENTED** [review]
Very minor comments

Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+

File: Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean (hunk 10 above)
Comment (callesonne) [reply Mathlib/CategoryTheory/Bicategory/Modification/Oplax.lean]: Haha! Good spot, this is what I get for manually adding the deprecation tags :)
